US04124596
5-(4-Fluorobenzoyl)-thieno[2,3-b]thiophene-2-carboxylic acid (48.1 g) and copper powder (8.2 g) are suspended in quinoline (410 cc) and heated at the boiling point for 5 minutes. After cooling, decolourizing charcoal (0.5 g) is added to the reaction mixture which is then filtered. The solution obtained is added dropwise to a mixture of distilled water (620 cc) and a 12N aqueous solution of hydrogen chloride (289 cc), cooled in an ice bath, the rate of addition being regulated in such a way that the temperature of the mixture remains below 10° C. Distilled water (500 cc) is added to the reaction mixture, which is stirred for a further 30 minutes in the ice bath, and then the resulting crystals are filtered off, washed four times with distilled water (total 2000 cc) and dried in air. Crude (4-fluorophenyl) (thieno[2,3-b]thien-2-yl) ketone (38.1 g), melting at 113° C., is thus obtained.

reactant | 5-(4-Fluorobenzoyl)-thieno[2,3-b]thiophene-2-carboxylic acid | 48.1 g | FC1=CC=C(C(=O)C2=CC3=C(S2)SC(=C3)C(=O)O)C=C1 | C14H7FO3S2
reactant | charcoal | 0.5 g | C | CH4
reactant | water | 620 cc | O | H2O
reactant | hydrogen chloride | 289 cc | Cl | ClH
reactant | water | 500 cc | O | H2O
solvent | quinoline | 410 cc | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper | 8.2 g | [Cu] | Cu
product | (4-fluorophenyl) (thieno[2,3-b]thien-2-yl) ketone | 38.1 g | S1C(=CC2=C1SC=C2)C(=O)C2=CC=C(C=C2)F | C13H7FOS2
